US07494999B2
The compound 1-(2-fluoro-4-trifluoromethyl-phenyl)-piperazine is synthesized according to the procedure outlined in Example 26 steps 1 and 2 using t-butyl-1-piperazine-carboxylate and 1-bromo-2-fluoro-4-trifluoromethyl-benzene.

reactant | t-butyl-1-piperazine-carboxylate | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 1-bromo-2-fluoro-4-trifluoromethyl-benzene | BrC1=C(C=C(C=C1)C(F)(F)F)F | C7H3BrF4
product | 1-(2-fluoro-4-trifluoromethyl-phenyl)-piperazine | FC1=C(C=CC(=C1)C(F)(F)F)N1CCNCC1 | C11H12F4N2
